US04638006
A solution of hexahydro-5-oxo-1H-pyrrolizine 3-carboxylic acid ethyl ester (12.6 g, 0.064 mol) in ethanol (35 ml) is treated with a 2N sodium hydroxide solution (35 ml, 0.07 mol) with stirring for 72 hours. The solution is concentrated at reduced pressure and treated with concentrated hydrochloric acid (6 ml) dropwise. The solution is extracted with dichloromethane. The extracts are dried (MgSO4), filtered, and concentrated to yield an oil. Trituration of the oil with acetone yields hexahydro-5-oxo-1H-pyrrolizine 3-carboxylic acid as a white solid with mp 145°-148° C.

reactant | hexahydro-5-oxo-1H-pyrrolizine 3-carboxylic acid ethyl ester | 0.064 mol, 12.6 g | C(C)OC(=O)C1CCC2CCC(N12)=O | C10H15NO3
reactant | sodium hydroxide | 0.07 mol, 2N, 35 ml | [OH-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | hexahydro-5-oxo-1H-pyrrolizine 3-carboxylic acid | O=C1N2C(CCC2CC1)C(=O)O | C8H11NO3
